US06881733B1
O-acetyl 3-bromo-4-fluorophenol
A solution of 1.09 gm (5 mMol) 3-bromo-4-fluoroacetophenone and 3.45 gm (20 mMol) m-chloroperbenzoic acid (70%) in 15 mL dichloromethane was heated at reflux for 18 hours. An additional 3.45 gm m-chloroperbenzoic acid were added and reflux continued for about 12 hours. At this point an additional 1.4 gm m-chloroperbenzoic acid were added and reflux continued for 18 hours. The reaction mixture was cooled to room temperature and was then diluted with 50 mL diethyl ether. The resulting mixture was cooled to 0° C. and was then treated with 15 mL 20% aqueous sodium thiosulfate. The resulting slurry was stirred for about 1 hour and then the phases separated. The organic phase was washed sequentially with 3×20 mL 20% aqueous sodium thiosulfate followed by 3×20 mL saturated aqueous sodium chloride. The organic phase was then dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 10:1 hexane:diethyl ether. Fractions containing product were combined and concentrated under reduced pressure to provide 68% of the desired compound.

reactant | 3-bromo-4-fluoroacetophenone | 5 mMol, 1.09 gm | CC(=O)C1=CC(=C(C=C1)F)Br | C8H6BrFO
reactant | m-chloroperbenzoic acid | 20 mMol, 3.45 gm | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 3.45 gm | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 1.4 gm | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 15 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | O-acetyl 3-bromo-4-fluorophenol | 68% | C(C)(=O)OC1=CC(=C(C=C1)F)Br | C8H6BrFO2
